US07790895B2
To a solution of 4-bromo-pyridine-3-carbaldehyde (400 mg, 2.15 mmol) in THF (10 mL) at −78° C. was added dropwise 3.0 M methylmagnesium bromide solution in THF (1.08 mL). After 15 min, the reaction mixture was quenched with saturated ammonium chloride solution and extracted with ethyl acetate, then purified by flash chromatography eluted with 50% ethyl acetate in hexane to yield 1-(4-bromo-pyridin-3-yl)-ethanol as white crystals.

reactant | 4-bromo-pyridine-3-carbaldehyde | 2.15 mmol, 400 mg | BrC1=C(C=NC=C1)C=O | C6H4BrNO
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.08 mL | C1CCOC1 | C4H8O
product | 1-(4-bromo-pyridin-3-yl)-ethanol | BrC1=C(C=NC=C1)C(C)O | C7H8BrNO
